US07521447B2
Step B: 2-[5-(2-Aminomethyl-4-fluorophenoxy)-indazol-1-yl]-N,N-dimethylacetamide (46d):
To a solution of 2-[5-(2-cyano-4-fluorophenoxy)-indazol-1-yl]-N,N-dimethylacetamide (0.090 g, 0.266 mmol) in EtOH (0.5 mL) was added CoBr2 (27 μL, 0.005 mmol) followed by [2,2′]bipyridinyl (81 μL, 0.015 mmol). NaBH4 (0.030 g, 0.798 mmol) was added to the mixture and it was stirred at room temperature for 18 hours. The mixture was treated with another portion each of CoBr2, [2,2′]bipyridinyl, and NaBH4 and stirred for another 18 hours. The mixture was quenched with MeOH, followed by acetic acid and then concentrated under reduced pressure. The white residue was partitioned between saturated NaHCO3 and ethyl acetate. The organic layer was filtered and concentrated under reduced pressure to afford 10 mg of white solid (11% yield).

reactant | 2-[5-(2-cyano-4-fluorophenoxy)-indazol-1-yl]-N,N-dimethylacetamide | 0.266 mmol, 0.090 g | C(#N)C1=C(OC=2C=C3C=NN(C3=CC2)CC(=O)N(C)C)C=CC(=C1)F | C18H15FN4O2
reactant | [2,2′]bipyridinyl | 0.015 mmol, 81 μL | N1=C(C=CC=C1)C1=NC=CC=C1 | C10H8N2
reactant | NaBH4 | 0.798 mmol, 0.030 g | [BH4-].[Na+]
solvent | EtOH | 0.5 mL | CCO | C2H6O
product | 2-[5-(2-Aminomethyl-4-fluorophenoxy)-indazol-1-yl]-N,N-dimethylacetamide | 10 mg, 11% yield | NCC1=C(OC=2C=C3C=NN(C3=CC2)CC(=O)N(C)C)C=CC(=C1)F | C18H19FN4O2
